US06635657B1
F. 5-Chloro-N-(5-chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide
A slurry of 1-isopropylpiperidine-4-carboxylic acid (501.0 mg, 2.92 mmol) and 50% DMF/THF (6.3 mL) was cooled in an ice bath, and a solution of iso-butyl chloroformate (0.34 mL, 2.63 mmol) and 50% DMF/THF (0.7 mL) was added over 10 min via syringe. The ice bath was removed at addition's end, and the mixture was allowed to warm to ambient temperature. After 1 h, 2-amino-5-chloro-N-(5-chloropyridin-2-yl)benzamide (414.8 mg, 1.47 mmol) was added in one portion, and the slurry was heated to 70° C. in an oil bath. Analysis by HPLC after 17 h showed only 2.5% of unacylated amine remained, so the volatiles were removed under reduced pressure, and EtOAc (25 mL) and water (20 mL) were added. The organic layer was extracted with saturated NaHCO3 (2×20 mL), and the combined aqueous layers were back-extracted with CH2Cl2 (2×20 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated to 0.97 g of yellow solid which was found to be contaminated with 45 wt % DMF. Corrected yield was 0.53 g (83% yield), and no further purification was performed:

reactant | 1-isopropylpiperidine-4-carboxylic acid | 2.92 mmol, 501.0 mg | C(C)(C)N1CCC(CC1)C(=O)O | C9H17NO2
reactant | iso-butyl chloroformate | 2.63 mmol, 0.34 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-amino-5-chloro-N-(5-chloropyridin-2-yl)benzamide | 1.47 mmol, 414.8 mg | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)Cl | C12H9Cl2N3O
solvent | DMF THF | 0.7 mL | CN(C)C=O.C1CCOC1
solvent | DMF THF | 6.3 mL | CN(C)C=O.C1CCOC1
product | 5-Chloro-N-(5-chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide | 83% yield | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCN(CC1)C(C)C | C21H24Cl2N4O2
